US05726306
A mixture of 2.15 g of 2-amino-5-chloro-2'-methoxybenzophenone and 20 ml of 47% hydrogen bromide was heated for 1 hour under reflux. The solution was rendered neutral with sodium bicarbonate, and subjected to extraction with 100 ml of ethyl acetate. The extract solution was washed with water and dried over anhydrous magnesium sulfate; the solvent was then distilled off under reduced pressure. The residue was purified by means of silica gel column chromatography (eluent, hexane:ethyl acetate=10:1) to yield 1.9 g of 2-amino-5-chloro-2'-hydroxybenzophenone as needles, m.p. 51° to 52° C.

reactant | 2-amino-5-chloro-2'-methoxybenzophenone | 2.15 g | NC1=C(C(=O)C2=C(C=CC=C2)OC)C=C(C=C1)Cl | C14H12ClNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrogen bromide | 20 ml | Br | BrH
product | 2-amino-5-chloro-2'-hydroxybenzophenone | 1.9 g | NC1=C(C(=O)C2=C(C=CC=C2)O)C=C(C=C1)Cl | C13H10ClNO2
